* BQ Buffer Cell — PAPER-ORIGINAL parameters
* Source: Razmkhah et al., SUST 37 065011 (2024), Fig.4
* "The Buffer/Quantizer (BQ) circuit functions similarly to the
*  digital SQUID. BQ will sum the negative and positive fluxes
*  applied to its loop and then provide quantized SFQ pulses
*  based on the change in the flux."
*
* Original parameters (from Fig.4 caption):
*   Lin=0.8pH, L0=1.323pH, L1=L2=3.91pH
*   JS=133uA, JL1=112uA, JL2=189uA, RB=8.5Ω
*
* jjmit: icrit=0.1m → area = IC(uA)/100
*   JS  area=1.33 (IC=133uA)  [our bq: area=0.50, IC=50uA]
*   JL1 area=1.12 (IC=112uA)  [our bq: area=0.36, IC=36uA]
*   JL2 area=1.89 (IC=189uA)  [our bq: area=0.54, IC=54uA]

.subckt BQ_PAPER IN OUT IB

Lin IN 1 0.8p
L0 4 OUT 1.323p
L1 2 3 3.91p
L2 3 4 3.91p
BJs 1 2 jjmit area=1.33
BJL1 2 0 jjmit area=1.12
RJ1 2 0 33
BJL2 4 0 jjmit area=1.89
RJ2 4 0 22
RB IB 3 8.5

.ends BQ_PAPER
